US06335445B1
Para-aminophenylacetic acid (3 g, 20 mmoles) is dissolved in 60 ml of a THF/H2O mixture (2/1). 11 ml of 10% soda is added then 6 g of di-t-butyl-dicarbonate (28 mmol) in solution in 50 ml of a THF/H2O mixture (2/1). Agitation is carried out for 18 hours at ambient temperature. Then the THF is evaporated off under reduced pressure. The medium is then acidified (pH=2) with a 10% solution of potassium acid sulphate (approximately 45 ml) and the reaction product is extracted with 3 washings with ethyl acetate (3 times 50 ml). The organic phases are dried and evaporated in order to produce 4.32 g (87%) of pure 4-(t-butoxycarbonylamino)-benzeneacetic acid in the form of a beige powder. Melting point: 149-150° C. NMR 1H (CDCl3, 100 MHz, δ): 1.52 (s, 9H, tBu), 3.60 (s, 2H, CH2), 4.12 (wide s, 1H, COOH), 6.55 (s, 1H, NH), 7.21 (m, 4H, arom. H).

reactant | Para-aminophenylacetic acid | 20 mmoles, 3 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | di-t-butyl-dicarbonate | 28 mmol, 6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF H2O | 60 ml | C1CCOC1.O
solvent | THF H2O | 50 ml | C1CCOC1.O
product | 4-(t-butoxycarbonylamino)-benzeneacetic acid | 4.32 g, 87% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CC(=O)O | C13H17NO4
